US05256679
To a stirred mixture of S-methyl-N-nitroisothiourea (0.30 g) and pyridine (5 ml) was added 1.05 g of isobutyric anhydride dropwise at room temperature (slightly exothermically). After stirring for 1 hour at room temperature and standing overnight, the reaction mixture was poured into 80 ml of 2N hydrochloric acid. The resulting mixture was extracted with 100 ml of Et2O, dried over MGSO4 and concentrated in vacuo to afford 0.38 g of N-isobutyroyl-S-methyl-N'-nitroisothiourea as pale yellow oil. NMR(CDCl3)δ: 1.29(d, J=7.2Hz, 6H), 2.30-2.94(m, 1H), 2.46(s, 3H)

reactant | S-methyl-N-nitroisothiourea | 0.30 g | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
reactant | isobutyric anhydride | 1.05 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | hydrochloric acid | 2N, 80 ml | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-isobutyroyl-S-methyl-N'-nitroisothiourea | 0.38 g | C(C(C)C)(=O)NC(SC)=N[N+](=O)[O-] | C6H11N3O3S
